US07265120B2
A suspension of 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2,3-pyrazinedicarbonitrile (343 mg) and sodium diformylamide (190 mg) in DMA (1 ml) was heated at 100-105° C. for an hour. After addition of water, the reaction mixture was extracted with CHCl3, dried over MgSO4, concentrated under reduced pressure and subjected to column chromatography on silica gel. With elution of a mixture of n-hexane and EtOAc (50:50 v/v) was obtained [3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2-pyrazinyl]formamide as a solid (30 mg) and with elution of a mixture of n-hexane and EtOAc (30:70 v/v) was obtained [3-cyano-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]-formamide as a solid (22 mg).

reactant | 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2,3-pyrazinedicarbonitrile | 343 mg | C(C)(C)N1N=C(C=CC1=O)C=1N=C(C(=NC1C1=CC=CC=C1)C#N)C#N | C19H14N6O
reactant | sodium diformylamide | 190 mg | C(=O)[N-]C=O.[Na+]
reactant | water | O | H2O
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
product | [3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2-pyrazinyl]formamide | 30 mg | C(#N)C=1C(=NC(=C(N1)C1=NN(C(C=C1)=O)C(C)C)C1=CC=CC=C1)NC=O | C19H16N6O2
